US06489476B1
A solution of 2-methylthio-1,3,4-thiadiazole-5-thiol (1 mmole) in THF (5 mL) was treated with sodium hydride (60%, 1.1 mmole) at 0° C. and the resulting mixture was stirred at room temperature for 30 min. The reaction was then cooled to 0° C. and treated with diethylphosphonomethyl trifluoromethanesulfonate (1.1 mmole). After stirring at room temperature for 12 h, the reaction was quenched with saturated ammonium chloride. Extraction and chromatography gave 2-methylthio-5-diethylphosphonomethylthio-1,3,4-thiadiazole as an oil.

reactant | 2-methylthio-1,3,4-thiadiazole-5-thiol | 1 mmole | CSC=1SC(=NN1)S | C3H4N2S3
reactant | sodium hydride | 1.1 mmole | [H-].[Na+]
reactant | diethylphosphonomethyl trifluoromethanesulfonate | 1.1 mmole | FC(S(=O)(=O)OCP(=O)(OCC)OCC)(F)F | C6H12F3O6PS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-methylthio-5-diethylphosphonomethylthio-1,3,4-thiadiazole | CSC=1SC(=NN1)SCP(=O)(OCC)OCC | C8H15N2O3PS3
